US07932272B2
2-Amino-6-(2-ethoxy-ethylamino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide described in Example A-101 (100 mg, 0.28 mmol) was dissolved in a mixture solution of dimethylsulfoxide (2 mL) and N,N-diisopropylethylamine (1 mL), 2-ethoxyethylamine (0.051 mL, 0.49 mmol) was added thereto, followed by heating in a sealed tube for 32 hours 40 minutes (oil bath temperature: 130° C.). The reaction mixture was allowed to room temperature, poured into brine, and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then concentrated, the obtained residue was purified by NH silica gel column chromatography (ethyl acetate:hexane=2:1), and the title compound (37 mg, 0.09 mmol, 32%) was obtained.

reactant | 2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)Cl | C17H14ClN3O2S
reactant | A-101 | 0.28 mmol, 100 mg | C1=CC=C(C=C1)CC(=O)NCN[C@@H](CC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O | C18H19N3O5
reactant | 2-ethoxyethylamine | 0.49 mmol, 0.051 mL | C(C)OCCN | C4H11NO
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | brine | [Cl-].[Na+].O
product | 2-Amino-6-(2-ethoxy-ethylamino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.09 mmol, 37 mg, 32% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)NCCOCC | C21H24N4O3S
